US07005432B2
5-(3-Difluoromethyl-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=301.3 (M+H+), was prepared from 2-(3-difluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 2-(3-difluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | FC(C=1C=C(C=CC1)B1OC(C(O1)(C)C)(C)C)F | C13H17BF2O2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(3-Difluoromethyl-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.FC(C=1C=C(C=CC1)C=1C=C(N=NC1)CN1C(=NC=C1)C)F | InChI=1S/C16H14F2N4.ClH/c1-11-19-5-6-22(11)10-15-8-14(9-20-21-15)12-3-2-4-13(7-12)16(17)18;/h2-9,16H,10H2,1H3;1H
